US07855290B2
N-(3-Fluoro-4-{[2-({[-4-(4-methylpiperazin-1-yl)piperidin-1-yl]-carbonyl}amino)pyridin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide
To a solution of [4-(2-fluoro-4-{[1-(4-fluorophenylcarbamoyl)cyclopropanecarbonyl]amino}phenoxy)pyridin-2-yl]-N-(phenoxycarbonyl)carbamic acid phenyl ester (66 mg) in N,N-dimethylformamide (1.0 ml) was added 1-methyl-4-(piperidin-4-yl)piperazine (73.3 mg) at room temperature, followed by stirring overnight. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with a saturated aqueous solution of ammonium chloride and brine in this order, and dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure. The resultant residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate, then ethyl acetate:methanol=95:5). Fractions containing the target compound were concentrated under reduced pressure. A solid was precipitated by addition of diethyl ether:heptane=1:3 to the resultant residue. The solvent was removed under reduced pressure. The solid residue was dried under reduced pressure to provide the titled compound as white powder (60.1 mg, 95%).

reactant | [4-(2-fluoro-4-{[1-(4-fluorophenylcarbamoyl)cyclopropanecarbonyl]amino}phenoxy)pyridin-2-yl]-N-(phenoxycarbonyl)carbamic acid phenyl ester | 66 mg | C1(=CC=CC=C1)OC(N(C(=O)OC1=CC=CC=C1)C1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=O)C1(CC1)C(NC1=CC=C(C=C1)F)=O)F)=O | C36H26F2N4O7
reactant | 1-methyl-4-(piperidin-4-yl)piperazine | 73.3 mg | CN1CCN(CC1)C1CCNCC1 | C10H21N3
solvent | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
product | N-(3-Fluoro-4-{[2-({[-4-(4-methylpiperazin-1-yl)piperidin-1-yl]-carbonyl}amino)pyridin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 60.1 mg, 95% | FC=1C=C(C=CC1OC1=CC(=NC=C1)NC(=O)N1CCC(CC1)N1CCN(CC1)C)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F | C33H37F2N7O4
